US04665065
7β-[2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid
To a mixture of 13 ml of water and 13 ml of tetrahydrofuran is dissolved 2.94 g of 7β-[2-(5-chloro-2-chloroacetamidothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymetyl)-3-cephem-4-carboxylic acid. To the mixture is added 1.15 g of sodium N-methyldithiocarbamate in 3 portions with stirring at room temperature for 3 hours. Ethyl acetate is added to the reaction mixture and the ethyl acetate layer is separated and discarded. The aqueous layer is acidified with concentrated hydrochloric acid and extracted with 200 ml of methyl ethyl ketone. The extract is washed with aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent is then evaporated off to give 2.28 g of the above-identified compound.

reactant | water | 13 ml | O | H2O
reactant | tetrahydrofuran | 13 ml | O1CCCC1 | C4H8O
reactant | 7β-[2-(5-chloro-2-chloroacetamidothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymetyl)-3-cephem-4-carboxylic acid | 2.94 g | ClC1=C(N=C(S1)NC(CCl)=O)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC | C20H19Cl2N5O9S2
reactant | sodium N-methyldithiocarbamate | 1.15 g | CNC([S-])=S.[Na+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7β-[2-(2-Amino-5-chlorothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 2.28 g | NC=1SC(=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC)Cl | C18H18ClN5O8S2
